US04898874
2-Amino-3-benzoylbenzeneacetonitrile
To a solution of 19.4 g (0.069 mole) of 2-amino-3-benzoyl-α-(methylthio)benzeneacetonitrile in 200 ml of tetrahydrofuran was added 160 g of commercial Raney nickel which had been washed three times with water and three times with tetrahydrofuran. The mixture was stirred at ambient temperature for 10 minutes and then filtered. The filtrate obtained was concentrated to give a solid residue. This residue was recrystallized from 2-propanol to yield 11.7 g (72%) of the titled compound as bronze needles, m.p. 137.5°-139° C.

reactant | 2-amino-3-benzoyl-α-(methylthio)benzeneacetonitrile | 0.069 mole, 19.4 g | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)C(C#N)SC | C16H14N2OS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 160 g | [Ni] | Ni
product | 2-Amino-3-benzoylbenzeneacetonitrile | 11.7 g, 72% | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC#N | C15H12N2O
